US07199124B2
2-(2-amino-4-pyridyl)-1-(3-methylphenyl)ethanone
2-(2-tert-Butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone (50.0 g, 0.153 mol) was added to 2N-hydrochloric acid (260 mL) and the mixture was stirred at 100° C. for 2 hrs. The reaction mixture was neutralized with aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was dried and concentrated. The crude crystals were washed with isopropyl ether to give the title compound (29.1 g, yield 84%).

reactant | 2-(2-tert-Butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone | 0.153 mol, 50.0 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C19H22N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 260 mL | Cl | ClH
product | 2-(2-amino-4-pyridyl)-1-(3-methylphenyl)ethanone | 29.1 g, yield 84% | NC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C14H14N2O
